US05710162
Synthesis of 1,2-dihydro-4-(3,4-methylenedioxyphenyl)-2-oxo-3-quinoline carboxylic acid
A mixture of 1,2-dihydro-4-(3,4-methylenedioxyphenyl)-2-oxo-3-quinoline carboxylic acid ethyl ester (40 g, 118.6 mmol), methanol (200 ml), water (300 ml) and potassium hydroxide (33.3 g, 593.5 mmol) was refluxed with heat for 40 hours. To the reaction mixture was added 110 ml of 6N-HCl to acidify the mixture to obtain a precipitated crystal by filtration. The crystal obtained was washed with diethylether to give 35 g (yield: 95.4%) of the title compound.

reactant | 1,2-dihydro-4-(3,4-methylenedioxyphenyl)-2-oxo-3-quinoline carboxylic acid ethyl ester | 118.6 mmol, 40 g | C(C)OC(=O)C=1C(NC2=CC=CC=C2C1C1=CC2=C(C=C1)OCO2)=O | C19H15NO5
reactant | methanol | 200 ml | CO | CH4O
reactant | potassium hydroxide | 593.5 mmol, 33.3 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | 300 ml | O | H2O
product | 1,2-dihydro-4-(3,4-methylenedioxyphenyl)-2-oxo-3-quinoline carboxylic acid | 35 g, yield: 95.4% | C1OC=2C=C(C=CC2O1)C1=C(C(NC2=CC=CC=C12)=O)C(=O)O | C17H11NO5
